US07629363B2
Step 2. Preparation of 4-fluoro-N-[1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]benzamide
To a solution of 4-amino-1-(3-fluorobenzyl)pyridin-2(1H)-one (0.263 g, 1.2 mmol) in acetonitrile (7 mL) was added a DMAP (ca.), triethylamine (0.25 mL, 1.8 mmol) and 4-fluorobenzoyl chloride (0.213 mL, 1.8 mmol). The reaction mixture stirred at 0° C. for 25 minutes and then filtered. The solid was washed with 10% citric acid and water to afford the desired compound (0.326 g, 79%) after drying. 1H-NMR (d6DMSO, 400 MHz) δ 7.98 (m, 2H), 7.71 (d, 1H, J=7.6 Hz), 7.35 (m, 3H), 7.08 (m, 3H), 6.98 (d, 1H, J=2.4 Hz), 6.61 (dd, 1H, J=2.4 Hz, 2.4 Hz), 5.03 (s, 2H); ESLRMS m/z 341.1.

reactant | 4-amino-1-(3-fluorobenzyl)pyridin-2(1H)-one | 1.2 mmol, 0.263 g | NC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C12H11FN2O
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 1.8 mmol, 0.213 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-fluoro-N-[1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]benzamide | 0.326 g, 79% | FC1=CC=C(C(=O)NC2=CC(N(C=C2)CC2=CC(=CC=C2)F)=O)C=C1 | C19H14F2N2O2
